US05482969
3,3,3-Trifluoro-2-hydroxy-2-methyl-N-(3-phenylsulfonyl-6-chlorophenyl)propanamide.
To a solution containing 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid (2.00 g) in N,N-dimethylacetamide (40 mL) cooled to -20° C. was added thionyl chloride (1.50 g) and the mixture was stirred for 1.0 hour. 6-chloro-3-phenylsulfonylaniline (2.42 g) was added in one portion and mixture was stirred for 48 hours at room temperature. The reaction mixture was poured into aqueous sodium hydroxide (1.0N, 250 mL) and extracted with ethyl acetate. The combined ethyl acetate extracts were washed (aqueous sodium hydroxide, brine) and evaporated. Chromatography, with hexane:ethyl acetate as the eluent (4:1 then 2:1) yielded the title compound as a white solid (1.25 g); mp: 79°-80° C.; NMR (250 MHz): 1.61 (s,3), 7.69 (m,3), 7.82 (m,2), 7.94 (d,1, J=9), 7.98 (m,2), 8.52 (s,1), 9.93 (s,1); MS: m/z=408(M+1). Analysis for C16H13ClF3NO4S: Calculated: C, 47.11; H, 3.19; N, 3.44; Found: C, 47.10; H, 3.28; N, 3.38.

reactant | 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid | 2.00 g | FC(C(C(=O)O)(C)O)(F)F | C4H5F3O3
reactant | thionyl chloride | 1.50 g | S(=O)(Cl)Cl | Cl2OS
reactant | 6-chloro-3-phenylsulfonylaniline | 2.42 g | ClC1=CC=C(C=C1N)S(=O)(=O)C1=CC=CC=C1 | C12H10ClNO2S
reactant | sodium hydroxide | 1.0N, 250 mL | [OH-].[Na+]
solvent | N,N-dimethylacetamide | 40 mL | CN(C(C)=O)C | C4H9NO
product | 3,3,3-Trifluoro-2-hydroxy-2-methyl-N-(3-phenylsulfonyl-6-chlorophenyl)propanamide | 1.25 g | FC(C(C(=O)NC1=CC(=CC=C1Cl)S(=O)(=O)C1=CC=CC=C1)(C)O)(F)F | C16H13ClF3NO4S
